US07629363B2
Step 1. Preparation of 3-bromo-6-methyl-2-oxo-1-(pyridin-3-ylmethyl)-1,2-dihydropyridin-4-yl trifluoromethanesulfonate
To a chilled suspension (−30° C.) of 3-bromo-4-hydroxy-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one (0.481 g, 1.63 mmol) in dichloromethane (6 mL) was added triethylamine (0.28 mL, 2.04 mmol), followed by the addition of a solution of trifluoromethanesulfonic anhydride (0.4 mL, 2.44 mmol) in dichloromethane (3 mL). The reaction mixture stirred at −30° C. under nitrogen for 1 hour. The reaction mixture was diluted with dichloromethane and washed with cold NaHCO3/water. The organic extracts were dried over Na2SO4 and the filtrate was concentrated under reduced pressure to afford the desired compound as a yellow semisolid (0.6675 g, 95%) after drying. ES-LRMS (M+H) m/z 427.1/429.1.

reactant | 3-bromo-4-hydroxy-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one | 1.63 mmol, 0.481 g | BrC=1C(N(C(=CC1O)C)CC=1C=NC=CC1)=O | C12H11BrN2O2
reactant | triethylamine | 2.04 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.44 mmol, 0.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-bromo-6-methyl-2-oxo-1-(pyridin-3-ylmethyl)-1,2-dihydropyridin-4-yl trifluoromethanesulfonate | 0.6675 g, 95% | FC(S(=O)(=O)OC1=C(C(N(C(=C1)C)CC=1C=NC=CC1)=O)Br)(F)F | C13H10BrF3N2O4S
